US04978753
In the manner given in Example 27, 2-amino-7,8-dimethyl-5-(p-fluorophenyl)-3H-1,4-benzodiazepine was heated in ethanol with diethyl acetylenedicarboxylate to give 1-carboethoxy-9,10-dimethyl-7-(p-fluorophenyl)pyrimido[1,2-a][1,4]benzodiazepin-3(5H)-one.

reactant | 2-amino-7,8-dimethyl-5-(p-fluorophenyl)-3H-1,4-benzodiazepine | NC1=NC2=C(C(=NC1)C1=CC=C(C=C1)F)C=C(C(=C2)C)C | C17H16FN3
reactant | diethyl acetylenedicarboxylate | C(#CC(=O)OCC)C(=O)OCC | C8H10O4
solvent | ethanol | C(C)O | C2H6O
product | 1-carboethoxy-9,10-dimethyl-7-(p-fluorophenyl)pyrimido[1,2-a][1,4]benzodiazepin-3(5H)-one | C(=O)(OCC)C1=CC(N=C2N1C1=C(C(=NC2)C2=CC=C(C=C2)F)C=C(C(=C1)C)C)=O | C23H20FN3O3
